US07781443B2
Trimethylsilyl chloride (4.6 ml) is added dropwise to a suspension of (2R,4S)-4-{[3,5-bis(trifluoromethyl)benzyl]-[5-(morpholin-4-yl)pyrimidin-2-yl]}amino-2-ethyl-6-methoxy-3,4-dihydro-2H-[1,5]naphthyridine-1-carboxylic acid ethyl ester (2.4 g), sodium iodide (5.4 g) and acetonitrile (50 ml) at 80° C. After addition, the reaction solution is cooled to room temperature, and a saturated aqueous sodium thiosulfate solution and ethyl acetate are added thereto. The organic layer is washed with a saturated brine, dried over magnesium sulfate, and concentrated under reduced pressure. The resulting residue is purified by column chromatography (silica gel; hexane: ethyl acetate=2:1→0:1) to give (2R,4S)-4-{[3,5-bis(trifluoromethyl)benzyl]-[5-(morpholin-4-yl)pyrimidin-2-yl]}amino-2-ethyl-6-hydroxy-3,4-dihydro-2H-[1,5]naphthyridine-1-carboxylic acid ethyl ester (988 mg). MS (m/z): 655 [M+H]+

reactant | Trimethylsilyl chloride | 4.6 ml | C[Si](C)(C)Cl | C3H9ClSi
reactant | (2R,4S)-4-{[3,5-bis(trifluoromethyl)benzyl]-[5-(morpholin-4-yl)pyrimidin-2-yl]}amino-2-ethyl-6-methoxy-3,4-dihydro-2H-[1,5]naphthyridine-1-carboxylic acid ethyl ester | 2.4 g | C(C)OC(=O)N1[C@@H](C[C@@H](C2=NC(=CC=C12)OC)NC1=NC=C(C(=N1)CC1=CC(=CC(=C1)C(F)(F)F)C(F)(F)F)N1CCOCC1)CC | C31H34F6N6O4
reactant | sodium iodide | 5.4 g | [I-].[Na+]
reactant | sodium thiosulfate | S(=S)(=O)([O-])[O-].[Na+].[Na+]
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
solvent | acetonitrile | 50 ml | C(C)#N | C2H3N
product | (2R,4S)-4-{[3,5-bis(trifluoromethyl)benzyl]-[5-(morpholin-4-yl)pyrimidin-2-yl]}amino-2-ethyl-6-hydroxy-3,4-dihydro-2H-[1,5]naphthyridine-1-carboxylic acid ethyl ester | 988 mg | C(C)OC(=O)N1[C@@H](C[C@@H](C2=NC(=CC=C12)O)NC1=NC=C(C(=N1)CC1=CC(=CC(=C1)C(F)(F)F)C(F)(F)F)N1CCOCC1)CC | C30H32F6N6O4
